US06451811B2
N-(4-Chlorobenzyl)-6-iodo-7-methoxy-1-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide (150 mg) is mixed with pyridine hydrochloride (1.50 g). The resulting solid is heated at 200° C. for 1 h, then cooled to room temperature and washed with MeOH. The residue is then dissolved in CH2Cl2, washed with 1N HCl, brine, dried (MgSO4), filtered and concentrated in vacuo. The crude product is purified by silica gel chromatography (CH2Cl2/MeOH 19/1, 9/1) to afford 60 mg (56%) of N-(4-chlorobenzyl)-1-methyl-4,7-dioxo-1,4,7,8-tetrahydro[1,8]naphthyridine-3-carboxamide. Physical characteristics are as follows: 1H NMR (DMSO-d6) δ 8.85, 8.44, 7.42-7.33, 6.82, 4.55, 3.92; IR (diffuse reflectance) 3044, 2350, 2318, 1941, 1908, 1679, 1645, 1627, 1553, 1524, 1504, 1466, 803, 672, 656, cm−1.

reactant | N-(4-Chlorobenzyl)-6-iodo-7-methoxy-1-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide | 150 mg | ClC1=CC=C(CNC(=O)C2=CN(C3=NC(=C(C=C3C2=O)I)OC)C)C=C1 | C18H15ClIN3O3
reactant | pyridine hydrochloride | 1.50 g | Cl.N1=CC=CC=C1
product | N-(4-chlorobenzyl)-1-methyl-4,7-dioxo-1,4,7,8-tetrahydro[1,8]naphthyridine-3-carboxamide | 60 mg, 56% | ClC1=CC=C(CNC(=O)C2=CN(C=3NC(C=CC3C2=O)=O)C)C=C1 | C17H14ClN3O3
